US05608073
To a solution of 2.63 g of methyl (2R,3S)-3-cyclopropyl-3-tert-butoxycarbonylamino-2-hydroxypropionate in 60 ml of benzene are added 1.94 ml of isopropenylmethylether and 0.25 g of p-toluenesulfonic acid pyridinium salt. The mixture is stirred at room temperature for one hour, and then refluxed for 40 minutes. After the mixture is cooled, 1.94 ml of isopropenylmethylether is added to the reaction mixture. The mixture is stirred at room temperature for 10 minutes, refluxed for 40 minutes, and evaporated to remove the solvent. The residue is purified by silica gel column chromatography (solvent; hexane:ethyl acetate=8:1) to give 2.69 g of methyl (4S,5R)-3-tert-butoxycarbonyl-2,2-dimethyl-4-cyclopropyl-5-oxazolidinecarboxylate.

reactant | methyl (2R,3S)-3-cyclopropyl-3-tert-butoxycarbonylamino-2-hydroxypropionate | 2.63 g | C1(CC1)[C@@H]([C@H](C(=O)OC)O)NC(=O)OC(C)(C)C | C12H21NO5
reactant | isopropenylmethylether | 1.94 ml | C(=C)(C)OC | C4H8O
reactant | p-toluenesulfonic acid pyridinium salt | 0.25 g | [NH+]1=CC=CC=C1.C1(=CC=C(C=C1)S(=O)(=O)[O-])C
reactant | isopropenylmethylether | 1.94 ml | C(=C)(C)OC | C4H8O
solvent | benzene | 60 ml | C1=CC=CC=C1 | C6H6
product | methyl (4S,5R)-3-tert-butoxycarbonyl-2,2-dimethyl-4-cyclopropyl-5-oxazolidinecarboxylate | 2.69 g, Yield: 89% | C(C)(C)(C)OC(=O)N1C(O[C@H]([C@@H]1C1CC1)C(=O)OC)(C)C | C15H25NO5
